US08871756B2
N-{[1-(Aminomethyl)-3,3-difluorocyclobutyl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and (3,3-difluorocyclobutane-1,1-diyl)dimethanamine. MS obsd. (ESI+) [(M+H)+] 487, 1H NMR (400 MHz, CD3OD) δ ppm 8.11 (dd, J=7.83, 1.01 Hz, 1 H), 8.08 (s, 1 H), 7.89 (d, J=7.07 Hz, 1 H), 7.80-7.68 (m, 2 H), 7.68-7.56 (m, 2 H), 6.15 (s, 1 H), 5.37 (s, 2 H), 4.55 (brs, 2 H), 3.80 (s, 2 H), 3.79-3.67 (m, 2 H), 3.44 (s, 2 H), 2.76 (t, J=12.25 Hz, 4 H), 2.51 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | (3,3-difluorocyclobutane-1,1-diyl)dimethanamine | FC1(CC(C1)(CN)CN)F | C6H12F2N2
product | N-{[1-(Aminomethyl)-3,3-difluorocyclobutyl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NCC1(CC(C1)(F)F)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C25H28F2N4O2S
